US05652271
3-(Dipropylamino)propanol (32.9 g) was added dropwise at 0° C. over 1.5 hours to stirred thionyl chloride (15.7 ml). When the addition was complete, the mixture was stirred at ambient temperature for 2 hours then poured into ethanol (250 ml). The stirred mixture was heated under reflux for 10 minutes, then the solvent was removed in vacuo to leave 1-chloro-3-(dipropylamino)-propane hydrochloride as an off-white solid (42 g) which was used without purification.

reactant | 3-(Dipropylamino)propanol | 32.9 g | C(CC)N(CCCO)CCC | C9H21NO
reactant | thionyl chloride | 15.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-chloro-3-(dipropylamino)-propane hydrochloride | 42 g | Cl.ClCCCN(CCC)CCC | InChI=1S/C9H20ClN.ClH/c1-3-7-11(8-4-2)9-5-6-10;/h3-9H2,1-2H3;1H
